US05378699
A mixture of 3,4-dihydro-1(2H)-naphthalenone (21.9 g), 3-nitrobenzaldehyde (22.6 g) and p-toluenesulphonic acid monohydrate (50 mg) in toluene (250 ml) was stirred at reflux with separation of water for 4.5 hours. The brown solution was allowed to cool overnight. The resulting yellow-orange deposited solid was filtered off, washed well with toluene and dried in vacuo yielding 2-(3-nitrobenzylidene)-3,4-dihydro-1(2H)-naphthalenone as crisp yellow needles.

reactant | 3,4-dihydro-1(2H)-naphthalenone | 21.9 g | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | 3-nitrobenzaldehyde | 22.6 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | p-toluenesulphonic acid monohydrate | 50 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-nitrobenzylidene)-3,4-dihydro-1(2H)-naphthalenone | [N+](=O)([O-])C=1C=C(C=C2C(C3=CC=CC=C3CC2)=O)C=CC1 | C17H13NO3
